US05011947
3,3-Bis(4-fluorophenyl)-2-(1,1-dimethylethyl)propenal
A mixture of pyridinium chlorochromate (3.8 g) and 3,3-bis-(4-fluorophenyl)-2-(1,1-dimethylethyl)propanol (2.4 g, 7.9 mmol) in 100 mL of methylene chloride was stirred at 25° C. for 64 hours during which time a gummy precipitate separated. The solvent was decanted from the precipitate and the residue rinsed with two 50 mL portions of methylene chloride. The combined methylene chloride solution was concentrated in vacuo. The residue was trituated with three 60 mL portions of hexane. The hexane solution was concentrated in vacuo and the residue crystallized from fresh hexane to give 1.0 g of the title compound; m.p. =49°-51° C. MS(CI): m/e =300 for M+.

reactant | pyridinium chlorochromate | 3.8 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 3,3-bis-(4-fluorophenyl)-2-(1,1-dimethylethyl)propanol | 7.9 mmol, 2.4 g | FC1=CC=C(C=C1)C(C(CO)C(C)(C)C)C1=CC=C(C=C1)F | C19H22F2O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 3,3-Bis(4-fluorophenyl)-2-(1,1-dimethylethyl)propenal | 1.0 g | FC1=CC=C(C=C1)C(=C(C=O)C(C)(C)C)C1=CC=C(C=C1)F | C19H18F2O
